US08754226B2
To a solution of (S)-tert-butyl 4-(3-(2-fluoro-4-(methoxycarbonyl)phenoxy)-2-oxopyrrolidin-1-yl)piperidine-1-carboxylate (2 g, 4.6 mmol) in EtOAc (20 mL) was added hydrogen chloride in isopropanol (5-6 M) (9.2 mL, 46 mmol) and the reaction was stirred overnight at ambient temperature. The reaction was concentrated under vacuum to give (S)-methyl 3-fluoro-4-(2-oxo-1-(piperidin-4-yl)pyrrolidin-3-yloxy)benzoate hydrochloride (1.5 g, 100%), which was used crude in the next reaction

reactant | (S)-tert-butyl 4-(3-(2-fluoro-4-(methoxycarbonyl)phenoxy)-2-oxopyrrolidin-1-yl)piperidine-1-carboxylate | 4.6 mmol, 2 g | FC1=C(O[C@@H]2C(N(CC2)C2CCN(CC2)C(=O)OC(C)(C)C)=O)C=CC(=C1)C(=O)OC | C22H29FN2O6
reactant | hydrogen chloride | Cl | ClH
reactant | isopropanol | 46 mmol, 5-6 M, 9.2 mL | C(C)(C)O | C3H8O
solvent | EtOAc | 20 mL | CCOC(=O)C | C4H8O2
product | (S)-methyl 3-fluoro-4-(2-oxo-1-(piperidin-4-yl)pyrrolidin-3-yloxy)benzoate hydrochloride | 1.5 g, 100% | Cl.FC=1C=C(C(=O)OC)C=CC1O[C@@H]1C(N(CC1)C1CCNCC1)=O | InChI=1S/C17H21FN2O4.ClH/c1-23-17(22)11-2-3-14(13(18)10-11)24-15-6-9-20(16(15)21)12-4-7-19-8-5-12;/h2-3,10,12,15,19H,4-9H2,1H3;1H/t15-;/m0./s1
